* C:\FOSSEE\eSim\library\SubcircuitLibrary\74HC86_subcircuit\74HC86_subcircuit.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 5/10/2025 7:52:45 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U2  Net-_U1-Pad1_ Net-_U1-Pad3_ Net-_U1-Pad5_ d_xor		
U3  Net-_U1-Pad2_ Net-_U1-Pad4_ Net-_U1-Pad6_ d_xor		
U4  Net-_U1-Pad9_ Net-_U1-Pad12_ Net-_U1-Pad7_ d_xor		
U5  Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad8_ d_xor		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ PORT		

.end
